US06077853
Preparation of methyl 4-amino-3-hydroxybenzoate
Through a solution of 4-amino-3-hydroxybenzoic acid (75 g, 0.49 mol) in 2.0 L of dry CH3OH at room temperature was bubbled anhydrous HCl gas until the solution was saturated. The solution was stirred for 48 hr, then concentrated in vacuo. The product was partitioned between EtOAc and saturated aq. NaHCO3 solution, and the organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to provide the title. 1H NMR (CDCl3, 400 MHz): d 7.51 (dd, 1H, J=8.1 and 1.9 Hz, ArH); 7.46 (d, 1H, J=1.9 Hz, ArH); 6.66 (d, 1H, J=8.1 Hz, ArH); 5.31 (bs, 1H, OH); 4.13 (bs, 2H, NH2) and 3.85 (s, 3H, OCH3).

reactant | 4-amino-3-hydroxybenzoic acid | 0.49 mol, 75 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | HCl | Cl | ClH
reactant | CH3OH | 2.0 L | CO | CH4O
product | methyl 4-amino-3-hydroxybenzoate | NC1=C(C=C(C(=O)OC)C=C1)O | C8H9NO3
